US06028141
A mixture of 3 g of ethylene glycol (0.048 moles), 12 g of N-carbamylmaleimide (0.086 moles) and 0.3 g of zinc chloride (0.0022 moles) in 70 mL of acetonitrile was heated to reflux. After 3 hours, a lot of solid material had been produced from the mixture. The mixture was filtered and the solids washed with acetonitrile and dried to afford 11.7 g of ethylene glycol bismaleurate. M.P.: 158°-60° C.; 1H NMR (DMSO-d6): δ 10.5 (s, 2 H), 7.2-7.8 (m, 4 H), 6.2-6.4 (m,4H),4.3(s,4H).

reactant | ethylene glycol | 0.048 moles, 3 g | C(CO)O | C2H6O2
reactant | N-carbamylmaleimide | 0.086 moles, 12 g | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
catalyst | zinc chloride | 0.0022 moles, 0.3 g | [Cl-].[Zn+2].[Cl-]
product | ethylene glycol bismaleurate | 11.7 g | C(\C=C/C(NC(N)=O)=O)(=O)OCCOC(\C=C/C(NC(N)=O)=O)=O | C12H14N4O8
